US08022214B2
A solution of 9-chloromethyl-anthracene (10.0 g, 44.11 mmol) and potassium cyanide (28.72 g, 441.1 mmol) in acetonitrile (1.6 L) was heated to reflux for 2 hours. The mixture was cooled to room temperature, filtered and concentrated. The residue was dissolved in CH2Cl2, washed with water, dried over MgSO4 and concentrated to give anthracen-9-yl-acetonitrile as yellow crystals (9.40 g, 98% yield). 1H NMR (CDCl3) δ 8.53 (1H, s), 8.18 (2H, d), 8.07 (2H, d), 7.65 (2H, dd), 7.54 (2H, dd), 4.60 (2H, s).

reactant | 9-chloromethyl-anthracene | 44.11 mmol, 10.0 g | ClCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C15H11Cl
reactant | potassium cyanide | 441.1 mmol, 28.72 g | [C-]#N.[K+]
solvent | acetonitrile | 1.6 L | C(C)#N | C2H3N
product | anthracen-9-yl-acetonitrile | 9.40 g, 98% yield | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CC#N | C16H11N
